US08034953B2
4-Amino-N′-hydroxy-N-[3-(3-hydroxyprop-1-yn-1-yl)phenyl]-1,2,5-oxadiazole-3-carboximidamide
A solution of 4-amino-N′-hydroxy-N-(3-iodophenyl)-1,2,5-oxadiazole-3-carboximidamide (19 mg, 55 μmol), 2-propyn-1-ol (3.6 μL, 62 μmol), bis(triphenylphosphine)palladium(II) chloride (1 mg, 2 μmol), and copper (I) iodide (0.4 mg, 2 μmol) in N,N-dimethylformamide (0.5 mL) was treated with N,N-diethylamine (74 μL, 0.72 mmol) and heated in the microwave at 120° C. for 15 min. The reaction mixture was diluted with 1:1 acetonitrile/water (1.5 mL), filtered, and purified by preparative LCMS to give the desired product (4 mg, 28%). LCMS for C12H12N5O3 (M+H)+: m/z=274.0.

reactant | 4-amino-N′-hydroxy-N-(3-iodophenyl)-1,2,5-oxadiazole-3-carboximidamide | 55 μmol, 19 mg | NC=1C(=NON1)C(NC1=CC(=CC=C1)I)=NO | C9H8IN5O2
reactant | 2-propyn-1-ol | 62 μmol, 3.6 μL | C(C#C)O | C3H4O
reactant | N,N-diethylamine | 0.72 mmol, 74 μL | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile water | 1.5 mL | C(C)#N.O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2 μmol, 1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 2 μmol, 0.4 mg | [Cu]I
product | 4-Amino-N′-hydroxy-N-[3-(3-hydroxyprop-1-yn-1-yl)phenyl]-1,2,5-oxadiazole-3-carboximidamide | 4 mg, 28% | NC=1C(=NON1)C(NC1=CC(=CC=C1)C#CCO)=NO | C12H11N5O3
